US05834463
(3aR*,10aS*)-9-(2,4-Dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride
In diethylether was dissolved (3aR*,10aS*)-9-(2,4-dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one produced in Working Example 22. To the solution was added a 2.5N hydrogen chloride-ethanol solution, and the mixture was stirred. Resulting crystalline precipitate was collected by filtration to obtain the titled compound, m.p. 164°-167° C.

reactant | hydrogen chloride ethanol | 2.5N | Cl.C(C)O
reactant | (3aR*,10aS*)-9-(2,4-dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | ClC1=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=CC(=C1)Cl | C19H18Cl2N2O
solvent | diethylether | C(C)OCC | C4H10O
product | (3aR*,10aS*)-9-(2,4-Dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride | Cl.ClC1=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=CC(=C1)Cl | InChI=1S/C19H18Cl2N2O.ClH/c20-13-9-8-12(15(21)10-13)11-23-18-7-2-1-5-17(18)22-16-6-3-4-14(16)19(23)24;/h1-2,5,7-10,14,16,22H,3-4,6,11H2;1H/t14-,16+;/m0./s1
